US04957928
1.5 ml of sulphuric acid (100% strength) are added to a solution of 7.69 g (40 mmol) of 3-carboxymethylchroman in 150 ml of methanol and the whole is boiled under reflux for 3 hours. After cooling, the reaction mixture is concentrated by evaporation in vacuo. The residue is dissolved in diethyl ether and washed, while cold, with water, sodium hydrogen carbonate and again with water. The combined organic phases are dried over sodium sulphate and concentrated by evaporation in vacuo. 8.08 g (98%) of 3-methoxycarbonylmethylchroman are obtained in the form of a pale yellow oil.

reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-carboxymethylchroman | 40 mmol, 7.69 g | C(=O)(O)CC1COC2=CC=CC=C2C1 | C11H12O3
reactant | methanol | 150 ml | CO | CH4O
product | 3-methoxycarbonylmethylchroman | 8.08 g, 98% | COC(=O)CC1COC2=CC=CC=C2C1 | C12H14O3
